US07557127B2
To a solution of ethyl (2E)-3-(4-bromophenyl)acrylate (1.0 g) in dioxane (70 mL) was added palladium(II) acetate (88 mg), 2′-(dicyclohexylphosphino)-N,N-dimethyl-2-diphenylamine (231 mg), cesium carbonate (1.79 g), and (3R)-1-benzyl-3-pyrrolidinamine (760 mg). The mixture was heated at 90° C. for 24 hours. The resulting mixture was poured into sat NH4Cl aq solution and extracted with AcOEt. The organic layer was washed with sat. NH4Cl aq solution, water, and brine, and dried over Na2SO4. The solvent was removed in vacuo and residual brown oil was purified by silica gel column chromatography eluted with chloroform:methanol=9:1 to give ethyl (2E)-3-(4-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}phenyl)acrylate (1.017 g) as pale yellow oil.

reactant | ethyl (2E)-3-(4-bromophenyl)acrylate | 1.0 g | BrC1=CC=C(C=C1)/C=C/C(=O)OCC | C11H11BrO2
reactant | cesium carbonate | 1.79 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3R)-1-benzyl-3-pyrrolidinamine | 760 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 88 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl (2E)-3-(4-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}phenyl)acrylate | 1.017 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=C1)/C=C/C(=O)OCC | C22H26N2O2
